US04178291
1-(2-Mercaptomethyl-3-mercaptopropanoyl)-L-proline
1-[(2-Acetylthiomethyl-3-(acetylthio)propanoyl]-L-proline (1.2 g.) is dissolved in a mixture of water (12 ml.) and concentrated ammonia (12 ml.) under an atmosphere of argon. After twenty minutes, the mixture is acidified with concentrated hydrochloric acid. The crystalline precipitate 1-(2-mercaptomethyl-3-mercaptopropanoyl)-L-proline is filtered and dried, yield 0.63 g., m.p. 138°-140°.

reactant | (2-Acetylthiomethyl-3-(acetylthio)propanoyl]-L-proline | 1.2 g | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CSC(C)=O | C13H19NO5S2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 12 ml | O | H2O
solvent | ammonia | 12 ml | N | H3N
product | 1-(2-Mercaptomethyl-3-mercaptopropanoyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)CS | C9H15NO3S2
